US08293768B2
Synthesis of 1-(4-fluorobenzyl)-3-(4-methyl-5-(5-methyl-1H-pyrazol-3-yl)thiazol-2-yl)imidazolidin-2-one
Following the procedure as described in Example 40, making variations as required to replace 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-(piperidine-1-carbonyl)benzyl)imidazolidin-2-one with 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-fluorobenzyl)imidazolidin-2-one to react with N,N-dimethylacetamide dimethyl acetal and further with hydrazine monohydrate, the title compound was obtained as a colorless solid in 46% yield: mp 218-221° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.28-7.23 (m, 2H), 7.05-6.97 (m, 2H), 6.15 (s, 1H), 4.44 (s, 2H), 4.09-4.02 (m, 2H), 3.43-3.38 (m, 2H), 2.52 (s, 3H), 2.24 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 164.1, 160.8, 156.5, 155.7, 143.4, 131.7, 130.1, 129.9, 115.8, 115.6, 103.7, 47.3, 42.0, 41.7, 16.5, 11.4; MS (ES+) m/z 372.2 (M+1).

reactant | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-(piperidine-1-carbonyl)benzyl)imidazolidin-2-one | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(=O)N1CCCCC1)=O)C | C22H26N4O3S
reactant | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-fluorobenzyl)imidazolidin-2-one | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)F)=O)C | C16H16FN3O2S
reactant | N,N-dimethylacetamide dimethyl acetal | COC(C)(N(C)C)OC | C6H15NO2
reactant | hydrazine monohydrate | O.NN
product | 1-(4-fluorobenzyl)-3-(4-methyl-5-(5-methyl-1H-pyrazol-3-yl)thiazol-2-yl)imidazolidin-2-one | 46% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C2=NNC(=C2)C)=O)C=C1 | C18H18FN5OS
